US04381401
In a procedure similar to Example 1, N-methylaniline hydrochloride (17.4 g, 0.10 mole), 2-oxazolidinone (8.7 g, 0.10 mole) and 50 ml of 2-(2-methoxyethoxy)-ethanol were heated for four hours. Removal of the solvent in vacuo gave a quantitative yield of N-methyl-N-phenyl-1,2-ethanediamine hydrochloride as a purplish solid. Workup as before afforded the crude diamine in also a quantitative crude yield as a dark yellow liquid. Distillation at 95° C. to 100° C. (0.5 mm Hg) gave a 79 percent yield of the purified product as a clear liquid. Spectral data and gas chromatographic analysis as compared to an authentic sample confirmed its structure.

reactant | N-methylaniline hydrochloride | 0.10 mole, 17.4 g | Cl.CNC1=CC=CC=C1
reactant | 2-oxazolidinone | 0.10 mole, 8.7 g | O1C(NCC1)=O | C3H5NO2
solvent | 2-(2-methoxyethoxy)-ethanol | 50 ml | COCCOCCO | C5H12O3
product | N-methyl-N-phenyl-1,2-ethanediamine hydrochloride | quantitative yield | Cl.CN(CCN)C1=CC=CC=C1 | InChI=1S/C9H14N2.ClH/c1-11(8-7-10)9-5-3-2-4-6-9;/h2-6H,7-8,10H2,1H3;1H
